US07253192B2
D] Methanesulfonic acid 5-(3-trifluoromethoxy-phenyl)-pent-4-ynyl ester
In analogy to the procedure described in example 1G], 5-(3-trifluoromethoxy-phenyl)-pent-4-yn-1-ol and methanesulfonyl chloride gave the title compound as a light brown oil.

reactant | 5-(3-trifluoromethoxy-phenyl)-pent-4-yn-1-ol | FC(OC=1C=C(C=CC1)C#CCCCO)(F)F | C12H11F3O2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | Methanesulfonic acid 5-(3-trifluoromethoxy-phenyl)-pent-4-ynyl ester | FC(OC=1C=C(C=CC1)C#CCCCOS(=O)(=O)C)(F)F | C13H13F3O4S
